US06730674B2
A mixture of 2-fluoro-4-bromothiophenol (300 mg), 2,6-dichloro-pyridazine (149 mg), potassium carbonate (400 mg) and acetone (6 mL) was prepared and refluxed for two hours. The acetone from the mixture was evaporated and the resulting residue was dissolved in a solution of methanol (3 mL) and sodium metal (166 mg). The resulting solution was refluxed for 1 hour. Evaporation of methanol afforded 3-(4-bromo-2-fluoro-phenylsulfanyl)-6-methoxy-pyridazine, which was not isolated but was immediately used in Step 2.

reactant | 2-fluoro-4-bromothiophenol | 300 mg | FC1=C(C=CC(=C1)Br)S | C6H4BrFS
reactant | 2,6-dichloro-pyridazine | 149 mg | ClN1NC(=CC=C1)Cl | C4H4Cl2N2
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | 3-(4-bromo-2-fluoro-phenylsulfanyl)-6-methoxy-pyridazine | BrC1=CC(=C(C=C1)SC=1N=NC(=CC1)OC)F | C11H8BrFN2OS
